US07195649B2
Step 11.1: 5-Amino-1-(4-nitrophenyl)-1H-pyrazole
7.65 g (50 mmol) of 4-nitrophenylhydrazine was suspended in 70 mL of water and 10 mL of n-propanol and the suspension was heated to about 50° C. At this temperature, 5 g (50 mmol) of concentrated hydrochloric acid and 4.81 g (50 mmol) of 3-dimethylaminoacrylonitrile were then added. After an additional 15 minutes, 3.8 mL (50 mmol) of a 25% ammonia solution was added dropwise within 15 minutes. The reaction mixture was then allowed to agitate at about 50° C. until the 3-dimethylaminoacrylonitrile had completely reacted (about 1 hour) after which the resulting dark-brown suspension was cooled in an ice bath. The precipitate was filtered off, washed 3 times with small portions of cold water and then dried. Yield of crude product: 9.4 g (46 mmol. 92% of the theoretical).

reactant | 4-nitrophenylhydrazine | 50 mmol, 7.65 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
reactant | hydrochloric acid | 50 mmol, 5 g | Cl | ClH
reactant | 3-dimethylaminoacrylonitrile | 50 mmol, 4.81 g | CN(C=CC#N)C | C5H8N2
reactant | ammonia | N | H3N
solvent | water | 70 mL | O | H2O
solvent | n-propanol | 10 mL | C(CC)O | C3H8O
product | 5-Amino-1-(4-nitrophenyl)-1H-pyrazole | NC1=CC=NN1C1=CC=C(C=C1)[N+](=O)[O-] | C9H8N4O2
